US04496571
A mixture of 4-[3-(2,2,2-trifluoroethyl)thioureido]-2-(4-phthalimidobut-2-ynylthio)pyrimidine (0.37 g.), DMF (10 ml.), saturated ethanolic ammonia (1 ml.), EtOH (10 ml.) and yellow mercuric oxide (0.32 g.) was stirred at room temperature for 2 hours and then filtered and the filtrate evaporated to dryness. The residue was treated with EtOH (20 ml.) and 98% hydrazine hydrate (1 ml.) and the mixture heated under reflux for 1 hour and then evaporated to dryness. The residue was stirred with N aqueous HCl and then filtered, The filtrate was basified with 10 N aqueous NaOH and the mixture extracted four times with ether. The combined extracts were dried and evaporated to dryness to give 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-(4-aminobut-2 -ynylthio)pyrimidine (0.17 g.) characterised as the bis hydrogen maleate, m.p. 153°-155° (decomp.)

reactant | 4-[3-(2,2,2-trifluoroethyl)thioureido]-2-(4-phthalimidobut-2-ynylthio)pyrimidine | 0.37 g | FC(CNC(NC1=NC(=NC=C1)SCC#CCN1C(C=2C(C1=O)=CC=CC2)=O)=S)(F)F | C19H14F3N5O2S2
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | ammonia | 1 ml | N | H3N
solvent | EtOH | 10 ml | CCO | C2H6O
product | 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-(4-aminobut-2 -ynylthio)pyrimidine | 0.17 g | FC(CN=C(NC1=NC(=NC=C1)SCC#CCN)N)(F)F | C11H13F3N6S
